US07163937B2
Methyltriphenylphosphonium bromide (1.2 g) was suspended in toluene (16 mL) prior to the addition of 0.5M potassium bis(trimethylsilyl)amide (5.8 mL) in toluene. After 1 h, this solution was cooled to 0° C. prior to the addition of benzyl (1S,2R,4R)-2-acetyl-4-(tert-butyldimethylsilyloxy)cyclohexylcarbamate (660 mg) in toluene (5.4 mL). After 20 min at 0° C., the reaction was quenched with saturated NH4Cl solution and extracted with EtOAc (2×). The organic extracts were combined, washed with brine, dried (MgSO4), filtered, and concentrated. The resulting residue was purified by flash chromatography to afford benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-(prop-1-en-2-yl)cyclohexylcarbamate (380 mg). MS found: (M+H)+=404.2.

reactant | potassium bis(trimethylsilyl)amide | 0.5M, 5.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | benzyl (1S,2R,4R)-2-acetyl-4-(tert-butyldimethylsilyloxy)cyclohexylcarbamate | 660 mg | C(C)(=O)[C@H]1[C@H](CC[C@H](C1)O[Si](C)(C)C(C)(C)C)NC(OCC1=CC=CC=C1)=O | C22H35NO4Si
catalyst | Methyltriphenylphosphonium bromide | 1.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.4 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-(prop-1-en-2-yl)cyclohexylcarbamate | 380 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)C(=C)C | C23H37NO3Si
